US04632985
(B) 5-(Benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid, ethyl ester
A suspension of 5-(benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid (8.24 g, 33.6 mmole) in 120 ml of ethanol was cooled to 0° C. and treated with a stream of dry HCl for 15 minutes. The resulting mixture was heated at 50° C. for 5.5 hours. The volatiles were removed in vacuo and the residue was treated with water. While cooling, the pH was raised to 7 with saturated potassium bicarbonate and the resulting mixture was extracted with dichloromethane. The extracts were washed with brine and dried over sodium sulfate. Filtration and concentration in vacuo produced 7.32 g of the title compound.

reactant | 5-(benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid | 33.6 mmole, 8.24 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(=O)O)=O | C13H11NO4
reactant | HCl | Cl | ClH
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | 5-(Benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid, ethyl ester | 7.32 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(=O)OCC)=O | C15H15NO4
